US05104889
Pyridine (3.24 ml) was dissolved in 120 ml of dichloroethane, followed by addition of 1.10 ml of titanium tetrachloride. The mixture was heated under reflux for 15 minutes. Then, 3.00 g of 2,3,5-trimethyl-1,4-benzoquinone and 2.00 g of 2-aminothiazole were added, and the resultant mixture was heated under reflux for 2 hours. The reaction mixture was cooled to room temperature and filtered through a Celite pad, and the insoluble matter was washed with chloroform. The filtrate was concentrated, and the crude product obtained was purified by silica gel column chromatography (diethyl ether-hexane =1:19 1:4) to give 0.70 g of 4-(2-thiazolylimino)-2,3,6-trimethylphenol as a pale red solid melting at 95°-96° C.

reactant | Pyridine | 3.24 ml | N1=CC=CC=C1 | C5H5N
reactant | 2,3,5-trimethyl-1,4-benzoquinone | 3.00 g | CC=1C(C=C(C(C1C)=O)C)=O | C9H10O2
reactant | 2-aminothiazole | 2.00 g | NC=1SC=CN1 | C3H4N2S
solvent | dichloroethane | 120 ml | ClC(C)Cl | C2H4Cl2
catalyst | titanium tetrachloride | 1.10 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 4-(2-thiazolylimino)-2,3,6-trimethylphenol | 0.70 g | S1C(=NC=C1)N=C1C(C(=C(C(=C1)C)O)C)C | C12H14N2OS
